US04778880
Morpholine (348 g) was added over a period of 5 minutes to an aqueous solution of acrylamide (54%; 522 g). External cooling was applied to maintain the temperature of the mixture below 80° C. After 2h, water (394 g) and paraformaldehyde (120 g) was added to the cooled solution. After warming to 50° C., an exothermic reaction caused the temperature to rise to 60° C. and after holding at this temperature for a further 2h, the solution of N-hydroxymethyl-morpholine propanamide thus formed was transferred to a stainless steel reaction vessel and quaternised with methyl chloride gas at 50 p.s.i. for 3h at 80° C. This product was assayed by chloride titration and found to be 55% w/w quaternised intermediate (I).

reactant | Morpholine | 348 g | N1CCOCC1 | C4H9NO
reactant | acrylamide | 522 g | C(C=C)(=O)N | C3H5NO
reactant | paraformaldehyde | 120 g | C=O | CH2O
solvent | water | 394 g | O | H2O
product | N-hydroxymethyl-morpholine propanamide | OCNC(CCN1CCOCC1)=O | C8H16N2O3
